US07402595B2
6-bromo-1-oxo-4-phenyl-2-(piperidin-2-ylmethyl)-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester hydrochloride
4N Hydrogen chloride ethyl acetate solution (5 ml) was added to 6-bromo-2-(1-tert-butoxycarbonylpiperidin-2-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (44 mg), and the mixture was stirred at room temperature for 2 hrs. The solvent was evaporated under reduced pressure, and the obtained residue was crystallized from isopropyl ether to give the title compound (21 mg, 53%).

reactant | Hydrogen chloride ethyl acetate | 4N, 5 ml | C(C)OC(C)=O.Cl
reactant | 6-bromo-2-(1-tert-butoxycarbonylpiperidin-2-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 44 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1N(CCCC1)C(=O)OC(C)(C)C | C28H31BrN2O5
product | 6-bromo-1-oxo-4-phenyl-2-(piperidin-2-ylmethyl)-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester hydrochloride | 21 mg, 53% | Cl.COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1NCCCC1 | InChI=1S/C23H23BrN2O3.ClH/c1-29-23(28)21-20(15-7-3-2-4-8-15)19-13-16(24)10-11-18(19)22(27)26(21)14-17-9-5-6-12-25-17;/h2-4,7-8,10-11,13,17,25H,5-6,9,12,14H2,1H3;1H
